US06423725B1
1-[4-(2-Oxo-2,3-dihydro-1H-1,3-benzimidazol-1-yl)piperidino]-1-cyclohexanecarbonitrile
To a stirred suspension of 4-(2-keto-1-benzimidazolinyl)piperidine (500 mg, 2.3 mmol) in 2N HCl(1.15 ml, 2.3 mmol) and water(0.5 ml) was added cyclohexanone(0.24 ml, 2.3 mmol) at 0° C. To this mixture was added a solution of KCN(156 mg, 2.4 mmol) in water(0.3 ml) all at once at room temperature. After 17 h stirring at room temperature, the precipitated white solid was collected by filtration, washed with water, and dried under vacuum at 50° C. for 1 h to afford 605 mg of white powder. As this included small amount of starting material amine, this was purified by column chromatography(silica gel: 130 g, CH2Cl2MeOH:30/1 to 20/1) to give 293 mg(39.3%) of white powder, mp199-201° C.

reactant | 4-(2-keto-1-benzimidazolinyl)piperidine | 2.3 mmol, 500 mg | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
reactant | HCl | 2.3 mmol, 2N, 1.15 ml | Cl | ClH
reactant | cyclohexanone | 2.3 mmol, 0.24 ml | C1(CCCCC1)=O | C6H10O
reactant | KCN | 2.4 mmol, 156 mg | [C-]#N.[K+]
solvent | water | 0.5 ml | O | H2O
solvent | water | 0.3 ml | O | H2O
product | 1-[4-(2-Oxo-2,3-dihydro-1H-1,3-benzimidazol-1-yl)piperidino]-1-cyclohexanecarbonitrile | 605 mg | O=C1NC2=C(N1C1CCN(CC1)C1(CCCCC1)C#N)C=CC=C2 | C19H24N4O
